US08669234B2
(1-{2-[5-(4-Bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (222 mg, 0.38 mmol) and piperazine (17 mg, 0.19 mmol) in toluene (3.5 mL) were treated with Pd(OAc)2 (2.1 mg, 0.0096 mmol, via 10% solution in toluene), BINAP (12 mg, 0.019 mmol), and NaOtBu (64 mg, 0.67 mmol). The mixture was stirred in a sealed tube at 120° C. for 4 hours. The solution was concentrated, diluted with EtOAc (50 mL), and washed with saturated NaHCO3 (20 mL), H2O (20 mL), and brine (20 mL). The solution was dried over MgSO4 and subjected to a reverse phase HPLC column (5-95% MeCN—H2O; 0.1% TFA modifier) to afford {1-[2-(5-{4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-phenyl)-piperazin-1-yl]-phenyl}-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (8 mg, 4%): MS (ESI) m/z 1105 [M+Na]+.

reactant | (1-{2-[5-(4-Bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.38 mmol, 222 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1N(C(=CN1)C1=CC=C(C=C1)Br)COCC[Si](C)(C)C)=O | C26H39BrN4O4Si
reactant | piperazine | 0.19 mmol, 17 mg | N1CCNCC1 | C4H10N2
reactant | BINAP | 0.019 mmol, 12 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 0.67 mmol, 64 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.0096 mmol, 2.1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | {1-[2-(5-{4-[4-(4-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-phenyl)-piperazin-1-yl]-phenyl}-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 8 mg, 4% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1N(C(=CN1)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)C=1N(C(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)COCC[Si](C)(C)C)COCC[Si](C)(C)C)=O | C56H86N10O8Si2
